US04269981
To valine (15 g, 0.129 mol) in 88% formic acid (52 ml) is added acetic formic anhydride (33 g, 0.386 mol) over 0.75 hr at 5°. The reaction mixture is warmed to RT and stirred overnight. The reaction is worked up by distilling off (bath temp. 45°-50°) the solvent, excess anhydride and acetic acid, to give, as a white solid, 2-(N-formylamino)-3-methylbutanoic acid, recrystallized from hot ethanol, m.p. 143°-145°.

reactant | valine | 0.129 mol, 15 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | acetic formic anhydride | 0.386 mol, 33 g | C(=O)OC(C)=O | C3H4O3
solvent | formic acid | 52 ml | C(=O)O | CH2O2
product | 2-(N-formylamino)-3-methylbutanoic acid | C(=O)NC(C(=O)O)C(C)C | C6H11NO3
